US09056914B2
To a solution of 957 mg of diethyl 4-(2-amino-ethoxy)-pyridine-2,6-dicarboxylate monohydrochloride in 30 ml of DCM and 734 μl of pyridine, precooled to about 5° C., was added 798 mg of 2-nitrobenzenesulfonyl chloride. The mixture was warmed to room temperature and stirred for 2 hours. A further 244 μl of pyridine and 665 mg of 2-nitrobenzenesulfonyl chloride were then added thereto and stirring was continued for 15 hours. The mixture was washed with 25 ml of water and the aqueous phase was extracted 2× with 25 ml of DCM. The organic phases were combined, dried over MgSO4, concentrated under reduced pressure and purified by flash chromatography on silica (Merck EasyVarioPrep 150 g column, Si60 15-40 μm), using a gradient of 0 to 10% EtOAc in DCM. The fractions containing the desired product were combined and concentrated under reduced pressure. 960 mg of diethyl 4-[2-(2-nitro-benzenesulfonylamino)-ethoxy]-pyridine-2,6-dicarboxylate were obtained. 1H NMR (400 MHz, DMSO-d6): 1.35 (t, J=7.2 Hz, 6H); 3.41 (t, J=5.2 Hz, 2H); 4.22 (t, J=5.2 Hz, 2H); 4.39 (q, J=7.2 Hz, 4H); 7.50 (s, 2H); 7.80 (m, 2H); 7.92 (m, 1H); 8.04 (m, 2H); 8.40 (m, 1H). LC/MS (C): tr=3.50 min; [M+H]+: m/z 468.

reactant | diethyl 4-(2-amino-ethoxy)-pyridine-2,6-dicarboxylate monohydrochloride | 957 mg | Cl.NCCOC1=CC(=NC(=C1)C(=O)OCC)C(=O)OCC
reactant | 2-nitrobenzenesulfonyl chloride | 798 mg | [N+](=O)([O-])C1=C(C=CC=C1)S(=O)(=O)Cl | C6H4ClNO4S
reactant | 2-nitrobenzenesulfonyl chloride | 665 mg | [N+](=O)([O-])C1=C(C=CC=C1)S(=O)(=O)Cl | C6H4ClNO4S
solvent | DCM | 30 ml | C(Cl)Cl | CH2Cl2
solvent | pyridine | 734 μl | N1=CC=CC=C1 | C5H5N
solvent | pyridine | 244 μl | N1=CC=CC=C1 | C5H5N
product | diethyl 4-[2-(2-nitro-benzenesulfonylamino)-ethoxy]-pyridine-2,6-dicarboxylate | 960 mg | [N+](=O)([O-])C1=C(C=CC=C1)S(=O)(=O)NCCOC1=CC(=NC(=C1)C(=O)OCC)C(=O)OCC | C19H21N3O9S
